US08222245B2
3-Chloro-4-[(1-methylethyl)oxy]benzoyl chloride
A round bottom flask was charged with 3-chloro-4-[(1-methylethyl)oxy]benzoic acid (available from Paragos Product List, 10.2 g, 47.5 mmol), dichloromethane (158 ml) and oxalyl chloride (8.29 ml, 95 mmol). The reaction mixture was cooled to 0° C. in an ice/water bath prior to the addition of N,N-dimethylformamide (0.158 ml). The solution was allowed to warm to ambient temperature overnight. The solvent was evaporated to yield the title compound as a cream solid (11.4 g). δH (CDCl3, 400 MHz): 1.44 (6H, d), 4.73 (1H, septet), 6.98 (1H, d), 8.0 (1H, dd), 7.98 (1H, d).

reactant | 3-chloro-4-[(1-methylethyl)oxy]benzoic acid | 47.5 mmol, 10.2 g | ClC=1C=C(C(=O)O)C=CC1OC(C)C | C10H11ClO3
reactant | dichloromethane | 158 ml | ClCCl | CH2Cl2
reactant | oxalyl chloride | 95 mmol, 8.29 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | N,N-dimethylformamide | 0.158 ml | CN(C=O)C | C3H7NO
product | 3-Chloro-4-[(1-methylethyl)oxy]benzoyl chloride | 11.4 g | ClC=1C=C(C(=O)Cl)C=CC1OC(C)C | C10H10Cl2O2
